data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
587,643,[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C:15]#[N+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:15]([C:14]#[N:13])=[N:16][N:17]3[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,10.19174911076956,-64.43991795181948
1549,1711,[CH3:13][NH:14][C:15](=[O:16])[N-:17][N+:18]([CH3:19])=[C:20]([C:21]#[N:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:17]([C:15]([NH:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([C:21]#[N:22])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,29.90479371906027,-18.55069334741961
5262,5967,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N+:26]([CH3:27])=[C:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:26]([CH3:27])[C:28]2([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,29.19065071867333,-0.6563728661890281
4009,4587,[CH3:6][NH:7][C:8](=[O:9])[C:10](=[O+:11][CH-:12][C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:12]([C:13](=[O:14])[O:15][CH3:16])[O:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:17](=[O:18])[O:19][CH3:20],water,298.15,35.89169349748684,2.073150044012391
374,405,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:12]([C:10]([CH3:9])=[O:11])=[N:13][C:14]2([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20],water,298.15,14.642794477145763,-39.63686240259123
328,357,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:13]([C:11]([CH3:10])=[O:12])([C:18]([CH3:19])=[O:20])[NH:14][CH:15]2[C:16]#[N:17],water,298.15,19.41088033086672,-31.750273322752328
5084,5772,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[CH-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:21]([CH3:22])[CH:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,33.13008582057988,-4.241546708043567
2780,3090,[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([C:25]([CH3:26])=[O:27])[N+:28]([CH3:29])=[C:30]([C:31]([CH3:32])=[O:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:30]([C:31]([CH3:32])=[O:33])([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[N:28]([CH3:29])[C:24]2([C:22]([O:21][CH3:20])=[O:23])[C:25]([CH3:26])=[O:27],water,298.15,75.79808751556827,-11.32816653228616
2706,3006,[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[N:24]#[C:25][C:26](=[O+:27][CH-:28][c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:27][C:26]2([C:25]#[N:24])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1,water,298.15,1.5249357548054967,-66.88549714651218
5238,5942,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][CH-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,16.149649579484098,-3.3692610232960822
